simulator lang=spectre
global 0

ahdl_include "./dut/phase_accumulator_timer_wrap_ref.va"

V_fb_vdd (VDD 0) vsource dc=0.9 type=dc
V_fb_vss (VSS 0) vsource dc=0 type=dc
XFB_DUT (VDD VSS clk_out phase_out) phase_accumulator_timer_wrap_ref dt=4n phase_step=0.2 tedge=160p

simulatorOptions options evas_profile=balanced

tran tran stop=72n maxstep=40p
save VDD VSS clk_out phase_out
